US05736548
To a solution of 1-cyclopentyl-3-ethyl-6-[3-(1-imidazolyl)phenyl]pyrazolo[3,4-d]pyrimidin-4-amine (6.24 g, 16.7 mmol), in 45 ml of H2O/H2SO4 (1:1) in an EtOH/ice bath was added sodium nitrite (5.77 g) in water (5 ml) in small portions over 1.5 hours. The reaction mixture was warmed to room temperature and stirred overnight. The reaction mixture was poured into ice/water (500 ml) and neutralized with NH4OH to afford a yellow precipitate which was collected by filtration, washed with water, then ether. The product was recrystallized from EtOAc/MeOH, then MeOH to afford 1-cyclopentyl-3-ethyl-6-[3-(1-imidazolyl)phenyl]pyrazolo-[3,4-d]pyrimidin-4-one, m.p. 264°-265° C.

reactant | 1-cyclopentyl-3-ethyl-6-[3-(1-imidazolyl)phenyl]pyrazolo[3,4-d]pyrimidin-4-amine | 16.7 mmol, 6.24 g | C1(CCCC1)N1N=C(C=2C1=NC(=NC2N)C2=CC(=CC=C2)N2C=NC=C2)CC | C21H23N7
reactant | sodium nitrite | 5.77 g | N(=O)[O-].[Na+]
reactant | NH4OH | [NH4+].[OH-]
solvent | H2O H2SO4 | 45 ml | O.OS(=O)(=O)O
solvent | water | 5 ml | O | H2O
product | 1-cyclopentyl-3-ethyl-6-[3-(1-imidazolyl)phenyl]pyrazolo-[3,4-d]pyrimidin-4-one | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC(=CC=C2)N2C=NC=C2)CC | C21H22N6O
